US07608629B2
2-Chloro-4-fluoro-N-[3-(cis-2-methyl-piperidin-4-yloxy)-phenyl]-benzamide isomer 2
Add 0.7 mL of conc. hydrochloric acid into a solution of 4-[3-(2-chloro-4-fluoro-benzoylamino)-phenoxy]-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester isomer 2 (Preparation 86, 0.464 g) in 1,4-dioxane 20 mL and heat at 100° C. for 40 min. Partition between ethyl acetate and saturated aqueous NaCl, dry over anhydrous sodium sulfate, evaporate and purify on a silica gel column (10 g, solvent: dichloromethane-2M NH3 in methanol, gradient) to give the title compound (0.298 g). Mass spectrum (electrospray) m/z=363 (M+1); 1H NMR (CDCl3): 7.94 (br s, 1H), 7.77 (dd, 1H), 7.41 (t, 1H), 7.24 (t, 1H), 7.19 (dd, 1H), 7.08 (m, 2H), 6.72 (m, 1H), 4.29 (m, 1H), 3.46 (s, 3H), 3.17 (m, 1H), 2.73 (m, 2H), 2.14 (m, 2H), 1.69 (br, 1H), 1.51 (m, 1H), 1.22 (m, 1H), 1.14 (d, J=6.4 Hz, 3H).

reactant | hydrochloric acid | 0.7 mL | Cl | ClH
reactant | 4-[3-(2-chloro-4-fluoro-benzoylamino)-phenoxy]-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](CC1)OC1=CC(=CC=C1)NC(C1=C(C=C(C=C1)F)Cl)=O)C | C24H28ClFN2O4
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-4-fluoro-N-[3-(cis-2-methyl-piperidin-4-yloxy)-phenyl]-benzamide | 0.298 g | ClC1=C(C(=O)NC2=CC(=CC=C2)O[C@@H]2C[C@@H](NCC2)C)C=CC(=C1)F | C19H20ClFN2O2
